US05717100
4-[5-(4-Fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-1,4-dimethyl-piperidine
To a stirring solution of 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-4-methylpiperidine-1-carboxylic acid tert-butyl ester (0.14 mmol, 60 mg) in THF (2.0 mL) was added lithium aluminum hydride (0.56 mmol, 0.56 mL of a 1M solution). The reaction was heated to reflux for 6 h, cooled, diluted with ethyl acetate (20 mL) and quenched with water (0.5 mL). The suspension was filtered and the filtrates washed with water (20 mL), dried over anhydrous sodium sulfate and the solvent evaporated under reduced pressure. The resulting solid was triturated with diethyl ether and filtered to give 20 mg of the title compound as a white powder. mp=227°-229° C.

reactant | 4-[5-(4-fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C=1NC(=C(N1)C1=CC=NC=C1)C1=CC=C(C=C1)F | C25H29FN4O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-[5-(4-Fluorophenyl)-4-pyridin-4-yl-1H-imidazol-2-yl]-1,4-dimethyl-piperidine | 20 mg | FC1=CC=C(C=C1)C1=C(N=C(N1)C1(CCN(CC1)C)C)C1=CC=NC=C1 | C21H23FN4
